US06972287B1
Step C (Scheme 6): Preparation of 2-{4-[2-(3,4-Dimethoxy-phenyl)-ethyl]-phenylamino}benzoic acid
The title compound was prepared from 4-[2-(3,4-dimethoxy-phenyl)-ethyl]phenylamine (9.25 g, 0.036 mol), 2-chlorobenzoic acid (5.2 g, 0.036 mol), anhydrous potassium carbonate (15.0 g, 0.11 mol), copper powder (0.45 g, 0.007 mol), and a catalytic amount of copper(I) chloride in dry DMF (75 mL) using the procedure described in Example 1, Step C, Method B. After crystallization with MeOH/H2O, 4.5 g (0.012 mol, 33%) of the desired product was obtained mp: 137-139° C.

reactant | 4-[2-(3,4-dimethoxy-phenyl)-ethyl]phenylamine | 0.036 mol, 9.25 g | COC=1C=C(C=CC1OC)CCC1=CC=C(C=C1)N | C16H19NO2
reactant | 2-chlorobenzoic acid | 0.036 mol, 5.2 g | ClC1=C(C(=O)O)C=CC=C1 | C7H5ClO2
reactant | potassium carbonate | 0.11 mol, 15.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 75 mL | CN(C)C=O | C3H7NO
catalyst | copper | 0.007 mol, 0.45 g | [Cu] | Cu
catalyst | copper(I) chloride | [Cu]Cl
product | 2-{4-[2-(3,4-Dimethoxy-phenyl)-ethyl]-phenylamino}benzoic acid | 0.012 mol, 4.5 g, 33% | COC=1C=C(C=CC1OC)CCC1=CC=C(C=C1)NC1=C(C(=O)O)C=CC=C1 | C23H23NO4
